US04578439
B. Preparation of Styryl Pyridine Cyanate Using Excess Cyanogen Bromide Stoichiometry
A portion of the reaction product of a 1 to 1.5 to 1 mole ratio of 2,4,6-trimethyl pyridine to p-hydroxy benzaldehyde to 2,6-dimethylpyridine (100.0 grams, 0.473 mole of hydroxyl groups) from 3-A above and acetone (750 milliliters) were added to a 2-liter glass resin kettle and maintained under a nitrogen atmosphere. Stirring was started and allowed to progress for 40 minutes (2400 s) then cooling of the reactor commenced. When the reaction temperature reached -5° C., cyanogen bromide (105.67 grams, 0.9975 mole) was added. After five minutes (300 s), triethylamine (96.64 grams, 0.955 mole) was added dropwise over a 20 minute (1200 s) period and so as to maintain the reaction temperature between -5° and 0° C. The reaction was allowed to progress for an additional 45 minutes (2700 s) between reaction temperatures of -5° to 5° C. After this time, the reaction slurry was filtered. The recovered filtrate was added to 1 gallon (3.79 l) of deionized water producing an amber oil precipitate. The oil product was recovered by extraction with three 500 milliliter portions of methylene chloride. The combined methylene chloride extract was washed with 1500 milliliters of deionized water, dried over anhydrous sodium sulfate and then filtered. The dry methylene chloride solution was rotary evaporated under vacuum to a constant weight of 118.6 grams. Infrared spectrophotometric analysis of a film sample of the amber colored, viscous oil product confirmed the product structure for the styryl pyridine cyanate (presence of cyanate group absorbance accompanied by total absence of hydroxyl group absorbance, retention of trans-unsaturation absorbance and aromatic carbon-oxygen absorbance).

reactant | 2,4,6-trimethyl pyridine | CC1=NC(=CC(=C1)C)C | C8H11N
reactant | p-hydroxy benzaldehyde | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | cyanogen bromide | 0.9975 mole, 105.67 grams | N#CBr | CBrN
reactant | triethylamine | 0.955 mole, 96.64 grams | C(C)N(CC)CC | C6H15N
solvent | acetone | 750 milliliters | CC(=O)C | C3H6O
product | Styryl Pyridine Cyanate | [O-]C#N.C(=CC1=CC=CC=C1)C1=NC=CC=C1 | InChI=1S/C13H11N.CHNO/c1-2-6-12(7-3-1)9-10-13-8-4-5-11-14-13;2-1-3/h1-11H;3H/p-1
